US05292752
To a solution of 3.0g (12.2 mmol) of N-[4-(4-piperidinyl-carbonyl)phenyl]-acetamide in 10 ml of water and 100 ml of tetrahydrofuran was added 2.3 g (13.4 mmol) of 2-chloro-4'-fluoro-acetophenone followed by 2.0g (24.4 mmol) of sodium bicarbonate. This mixture was heated to reflux for 1.5 hours. The reaction mixture was poured into 500 ml of brine and extracted with chloroform. The organic layer was dried with magnesium sulfate, filtered and concentrated to yield a solid which was recrystallized from 2-butanone/cyclohexane. 1-(4-Fluorophenyl)-2-[4-[(4-acetamidophenyl)carbonyl]-1-piperidinyl]-ethanone was obtained as an off-white solid having a mp of 168°-170° C.

reactant | N-[4-(4-piperidinyl-carbonyl)phenyl]-acetamide | 12.2 mmol, 3.0g | N1CCC(CC1)C(=O)C1=CC=C(C=C1)NC(C)=O | C14H18N2O2
reactant | 2-chloro-4'-fluoro-acetophenone | 13.4 mmol, 2.3 g | ClCC(=O)C1=CC=C(C=C1)F | C8H6ClFO
reactant | sodium bicarbonate | 24.4 mmol, 2.0g | C([O-])(O)=O.[Na+]
solvent | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | brine | 500 ml | [Cl-].[Na+].O
product | 1-(4-Fluorophenyl)-2-[4-[(4-acetamidophenyl)carbonyl]-1-piperidinyl]-ethanone | FC1=CC=C(C=C1)C(CN1CCC(CC1)C(=O)C1=CC=C(C=C1)NC(C)=O)=O | C22H23FN2O3
